US07094894B2
Preparation of diethyl (2-fluoro-4-methylphenyl)malonate
0.49 mol of diethyl malonate was added at 60° C. inside 2 hours to a mixture of 0.51 mol of NaH and 140 ml of 1,4-dioxane. The mixture was stirred for approximately 10 min at 60° C. and then 0.05 mol of Cu(I)Br was added. After 15 min, a mixture of 0.25 mol of 4-bromo-3-fluorotoluene and 10 ml of 1,4-dioxane was added. The reaction mixture was heated at 100° C. for approximately 15 hours and was then cooled to 15° C. After acidifying with 35 ml of 12N HCl at 15 to 20° C., the precipitate produced was filtered off. The filtrate was extracted and the organic phases, after separation, were dried and then freed from the solvent. 40 g of the title compound were obtained.

reactant | diethyl malonate | 0.49 mol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 0.51 mol | [H-].[Na+]
reactant | 4-bromo-3-fluorotoluene | 0.25 mol | BrC1=C(C=C(C=C1)C)F | C7H6BrF
reactant | HCl | 12N, 35 ml | Cl | ClH
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 140 ml | O1CCOCC1 | C4H8O2
product | diethyl (2-fluoro-4-methylphenyl)malonate | 40 g | FC1=C(C=CC(=C1)C)C(C(=O)OCC)C(=O)OCC | C14H17FO4
